US07456218B2
3-(4-{[2′-methyl-4′-(3-(pyridin-2-yl)propoxy)biphenyl-3-yl]methoxy}phenyl)propanoic acid
A solution of methyl 3-(4-{[2′-methyl-4′-(3-(pyridin-2-yl)propoxy)biphenyl-3-yl]methoxy}phenyl)propanoate (0.401 g, 0.809 mmol) in methanol (5 mL) and tetrahydrofuran (5 mL) was added 2 M aqueous sodium hydroxide solution (1.5 mL) and the mixture was stirred at room temperature for 75 hrs. Water was added to the reaction mixture, and the mixture was neutralized with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane-ethyl acetate) and recrystallized from ethyl acetate-hexane to give the title compound (0.186 g, yield 48%) as colorless prism crystals.

reactant | methyl 3-(4-{[2′-methyl-4′-(3-(pyridin-2-yl)propoxy)biphenyl-3-yl]methoxy}phenyl)propanoate | 0.809 mmol, 0.401 g | CC1=C(C=CC(=C1)OCCCC1=NC=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C32H33NO4
reactant | sodium hydroxide | 2 M, 1.5 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(4-{[2′-methyl-4′-(3-(pyridin-2-yl)propoxy)biphenyl-3-yl]methoxy}phenyl)propanoic acid | 0.186 g, yield 48% | CC1=C(C=CC(=C1)OCCCC1=NC=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)O | C31H31NO4
